US04647584
3-Chloro-4-(3-cyanopropyloxy)-5-methoxymethylaniline (2.55 g) in toluene (20 ml) was dropwise added to a toluene solution containing 10 g of phosgene at 10° to 20° C. The resulting mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give 3-chloro-4-(3-cyanopropyloxy)-5-methoxymethylphenyl isocyanate (2.80 g). The thus obtained crude substance was added to a toluene solution (50 ml) containing triethylamine (1.0 g) and isopropanol (1.0 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-[3-chloro-4-(3-cyanopropyloxy)-5-methoxymethylphenyl]carbamate (Compound No. 6) (2.70 g) in a yield of 79.2%. nD20.0 1.5196.

reactant | 3-Chloro-4-(3-cyanopropyloxy)-5-methoxymethylaniline | 2.55 g | ClC=1C=C(N)C=C(C1OCCCC#N)COC | C12H15ClN2O2
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-4-(3-cyanopropyloxy)-5-methoxymethylphenyl isocyanate | 2.80 g | ClC=1C=C(C=C(C1OCCCC#N)COC)N=C=O | C13H13ClN2O3
